US05981559
A mixture of methyl 3-(4,5,6,7-tetrahydrobenzothiazol-2-ylmethoxy)benzoate (361 mg, 1.2 mmol), tetrahydrofuran (2 ml), methanol (2 ml) and 1 N sodium hydroxide (2 ml) was stirred at room temperature for 12 hours and then concentrated under reduced pressure. The resulting residue was dissolved in water and the solution was adjusted to pH 3 by adding 10% citric acid aqueous solution. Thereafter, the solid substance formed was collected by filtration, washed with water, and then dried under reduced pressure to give 3-(4,5,6,7-tetrahydrobenzothiazol-2-ylmethoxy)benzoic acid (257 mg, 0.89 mmol, 75%).

reactant | methyl 3-(4,5,6,7-tetrahydrobenzothiazol-2-ylmethoxy)benzoate | 1.2 mmol, 361 mg | S1C(=NC2=C1CCCC2)COC=2C=C(C(=O)OC)C=CC2 | C16H17NO3S
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 3-(4,5,6,7-tetrahydrobenzothiazol-2-ylmethoxy)benzoic acid | 0.89 mmol, 257 mg, 75% | S1C(=NC2=C1CCCC2)COC=2C=C(C(=O)O)C=CC2 | C15H15NO3S
